US04788206
As described in Example 99, (Z)-3-(4-methoxyphenyl)-3-phenyl-2-propenal (7.3 g) was treated with (carbomethoxymethylene)triphenylphosphorane (11.9 g) in carbon tetrachloride (50 mL) and dichloromethane (10 mL) overnight at room temperature. The crude ester was isolated in the usual way and purified by HPLC (ether-hexane; 1:7.5) to furnish 6.4 g of (2E,4Z)-5-(4-methoxyphenyl)-5-phenyl-2,4-pentadienoic acid methyl ester as an oil.

reactant | (Z)-3-(4-methoxyphenyl)-3-phenyl-2-propenal | 7.3 g | COC1=CC=C(C=C1)\C(=C/C=O)\C1=CC=CC=C1 | C16H14O2
reactant | (carbomethoxymethylene)triphenylphosphorane | 11.9 g | C(=O)(OC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19O2P
solvent | carbon tetrachloride | 50 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (2E,4Z)-5-(4-methoxyphenyl)-5-phenyl-2,4-pentadienoic acid methyl ester | 6.4 g | COC(\C=C\C=C(\C1=CC=CC=C1)/C1=CC=C(C=C1)OC)=O | C19H18O3
